US04046801
This preparation illustrates methods for preparing 1-acyloxy-2-(carboalkoxy-alkyl)-cyclopent-1-ene. In this example, 26.5 g. of 2-(6-carbomethoxy-hexyl)-1-oxo-cyclopentane is added to 250 ml. of isopropenyl acetate containing 0.4 ml. of concentrated sulfuric acid. The mixture is then slowly distilled for 21/2 hours and then cooled to room temperature and poured into an ice saturated solution of aqueous sodium bicarbonate. The mixture is then extracted with methylene chloride. The methylene chloride extract is washed with water and then washed with saturated brine, then dried over anhydrous sodium sulfate and evaporated to dryness affording a crude residue of 1-acetoxy-2-(6-carbomethoxyhexyl)-cyclopent-1-ene, which is further purified by high vacuum distillation.

reactant | 2-(6-carbomethoxy-hexyl)-1-oxo-cyclopentane | C(=O)(OC)CCCCCCC1C(CCC1)=O | C13H22O3
reactant | isopropenyl acetate | 0.4 ml | C(C)(=O)OC(=C)C | C5H8O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-acetoxy-2-(6-carbomethoxyhexyl)-cyclopent-1-ene | C(C)(=O)OC1=C(CCC1)CCCCCCC(=O)OC | C15H24O4
